US05580982
3-[[2-(4-Morpholinyl)ethyl]amino]-1,2-benzisoxazol-6-ol
6-Methoxy-N-[2-(4-morpholinyl)ethyl]-1,2-benzisoxazol-3-amine (2.9 g) was dissolved in 48% hydrobromic acid (50 ml) and heated to reflux under nitrogen for 3 hours. The reaction was cooled to room temperature, neutralized with saturated sodium carbonate (Na2CO3) solution, and extracted with EtOAc. The organic phase was dried over MgSO4 and concentrated in vacuo. Flash chromatography (silica gel) eluting with 3:2 acetone/heptane and subsequently titration with DCM/heptane provided the product (1.0 g), m.p. 151°-152° C.

reactant | 6-Methoxy-N-[2-(4-morpholinyl)ethyl]-1,2-benzisoxazol-3-amine | 2.9 g | COC1=CC2=C(C(=NO2)NCCN2CCOCC2)C=C1 | C14H19N3O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrobromic acid | 50 ml | Br | BrH
product | 3-[[2-(4-Morpholinyl)ethyl]amino]-1,2-benzisoxazol-6-ol | 1.0 g | N1(CCOCC1)CCNC1=NOC2=C1C=CC(=C2)O | C13H17N3O3
